US04640913
1-Hydroxy-2-nonadecanone
A mixture of about 96.5 g of octadecanoic acid chloride and about 205.06 g of tris-trimethylsilyloxyethylene was heated at about 110°-115° C. for about 2 hours. Another about 65 g of tris-trimethylsilyloxyethylene was added and heating was continued for about one more hour. The solution was poured slowly into a mixture of about 300 ml of tetrahydrofuran, about 300 ml of water and about 50 ml of concentrated hydrochloric acid with vigorous stirring (exothermic). The mixture was stirred at reflux for about 15 minutes and then diluted with about 1000 ml ethyl acetate. The water layer was separated from the hot mixture. The ethyl acetate layer was kept hot (about 0° C.), and saturated aqueous sodium bicarbonate was added. The resulting mixture was stirred for about 10 minutes. The organic layer was separated, dried, evaporated and recrystallized from methanol, giving about 81.3 g of the desired title compound as a white solid, mp 78°-80° C.

reactant | octadecanoic acid chloride | about 96.5 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | tetrahydrofuran | about 300 ml | O1CCCC1 | C4H8O
reactant | water | about 300 ml | O | H2O
reactant | hydrochloric acid | about 50 ml | Cl | ClH
solvent | ethyl acetate | about 1000 ml | C(C)(=O)OCC | C4H8O2
product | 1-Hydroxy-2-nonadecanone | about 81.3 g | OCC(CCCCCCCCCCCCCCCCC)=O | C19H38O2
